US04164583
25 ml of water are added dropwise to 500 g of polyphosphoric acid at 50° followed by 50 g of 4-(p-chlorobenzyl)-1-methyl-pyrrolidin-3-carbonitrile and the mixture stirred for 1 hour at 125° and then for 21/2 hours at 160°. Ice and 1 liter of 50% sodium hydroxide are added to the cooled mixture which is then extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and evaporated to yield 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one. M.P. 148°-150° (hydrogen maleate form).

reactant | 4-(p-chlorobenzyl)-1-methyl-pyrrolidin-3-carbonitrile | 50 g | ClC1=CC=C(CC2C(CN(C2)C)C#N)C=C1 | C13H15ClN2
reactant | sodium hydroxide | 1 liter | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 6-chloro-3a,4,9,9a-tetrahydro-2-methylbenz[f]isoindolin-4-one | ClC1=CC2=C(CC3CN(CC3C2=O)C)C=C1 | C13H14ClNO
